US07608629B2
Preparation 60. 6-(1-Methyl-piperidin-4-yloxy)-pyridin-2-ylamine
Combine 2-chloro-6-(1-methyl-piperidin-4-yloxy)-pyridine (preparation 46, 7.0 g, 31.0 mmol), Pd2(dba)3 (1.41 g, 1.5 mmol), (±)-BINAP (1.92 g, 3.0 mmol), sodium tert-butoxide (4.15 g, 43.0 mmol), and benzophenone imine (6.9 mL, 37.0 mmol), heat at 80° C. in 200 mL of toluene. After 18 hr., cool the reaction to room temperature, and partition between ethylacetate and water. Extract with ethylacetate (1×), and methylene dichloride (2×), combine organics and dry over MgSO4, and concentrate. Dissolve residue in of 1:1 1 N aqueous HCl/THF (200 mL), stir at room temperature. After 2 hr., adjust aqueous layer to pH>10 with 5 N NaOH. Partition between ethylacetate and water, extract aqueous layer with ethylacetate (1×) and methylene dichloride three times. Combine organics, dry over MgSO4, concentrate, and further purify by chromatography (silica gel, eluting with 0-20% 2 M NH3 in methanol/ethylacetate), to obtain the title compound (6.3 g, 99% yield). Mass spectrum (ion spray): m/z=208.1 (M+1); Anal calcd for C11H17N3O.HCl.0.85H2O: Theory: C, 51.00; H, 7.67; N, 16.22. Found: C, 50.72; H, 7.27; N, 16.22.

reactant | 2-chloro-6-(1-methyl-piperidin-4-yloxy)-pyridine | 31.0 mmol, 7.0 g | ClC1=NC(=CC=C1)OC1CCN(CC1)C | C11H15ClN2O
reactant | sodium tert-butoxide | 43.0 mmol, 4.15 g | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 37.0 mmol, 6.9 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 1.5 mmol, 1.41 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(1-Methyl-piperidin-4-yloxy)-pyridin-2-ylamine | 6.3 g, 99% yield | CN1CCC(CC1)OC1=CC=CC(=N1)N | C11H17N3O
